US07915443B2
N-{[3-({[2-(diethylamino)ethyl]amino}carbonyl)phenyl](methyl)oxido--sulfanylidene}-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide
To a solution of 3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoic acid (52 mg, 0.096 mmol), 2-diethylaminoethylamine (0.016 ml, 0.115 mmol), and N,N-diisopropylethylamine (0.034 ml, 0.192 mmol) in 3.0 ml DMF at room temperature was added benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphoniumhexafluorophosphate (47 mg, 0.106 mmol). The reaction was stirred at room temperature for 1.5 hours, and then partitioned between EtOAc and dilute brine. The EtOAc layer was washed with saturated NaHCO3 solution, dilute brine, dried with anhydrous Na2SO4 and rotary evaporated. The yellow oil (combined 7 mg impure product from another lot) was chromatographed eluting with EtOAc/MeOH, then rechromatographed using a preparative TLC plate (eluted with (1:1:2.5) CHCl3:EtOAc:MeOH plus NH4OH) to give the title compound as a white solid foam (28 mg).

reactant | 3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoic acid | 0.096 mmol, 52 mg | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C(=O)O)C=CC1)C | C28H23N5O5S
reactant | 2-diethylaminoethylamine | 0.115 mmol, 0.016 ml | C(C)N(CCN)CC | C6H16N2
reactant | N,N-diisopropylethylamine | 0.192 mmol, 0.034 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphoniumhexafluorophosphate | 0.106 mmol, 47 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-{[3-({[2-(diethylamino)ethyl]amino}carbonyl)phenyl](methyl)oxido--sulfanylidene}-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide | C(C)N(CCNC(=O)C=1C=C(C=CC1)S(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)=O)(=O)C)CC | C34H37N7O4S
